US06699840B2
5.3.1 SYNTHESIS OF TOPIRAMATE SODIUM TRIHYDRATE
0.97 g (2.9 mmols) of topiramate (Cheminor Ltd.), 10 mL distilled water, and 2.8 mL IN NaOH (2.8 mmol) were added to a glass beaker, warmed on a hotplate to 60° C. and stirred with a TEFLON-coated stir bar on a magnetic stirplate. The solid topiramate dissolved in about 25 minutes.

reactant | topiramate | 2.9 mmols, 0.97 g | CC1(O[C@@H]2CO[C@@]3([C@H]([C@@H]2O1)OC(O3)(C)C)COS(=O)(=O)N)C | C12H21NO8S
reactant | NaOH | 2.8 mmol | [OH-].[Na+]
solvent | water | O | H2O
product | TOPIRAMATE SODIUM TRIHYDRATE | CC1(O[C@@H]2CO[C@@]3([C@H]([C@@H]2O1)OC(O3)(C)C)COS(=O)(=O)[NH-])C.O.O.O.[Na+] | InChI=1S/C12H20NO8S.Na.3H2O/c1-10(2)18-7-5-16-12(6-17-22(13,14)15)9(8(7)19-10)20-11(3,4)21-12;;;;/h7-9H,5-6H2,1-4H3,(H-,13,14,15);;3*1H2/q-1;+1;;;/t7-,8-,9+,12+;;;;/m1..../s1
